US07772246B2
To a solution of 5-bromo-3-methylpyridin-2-amine (B-4-1) (3.7 g, 0.02 mol) in THF (50 mL) was added portionwise NaH (0.8 g, 0.02 mol) at 0° C. After the addition, the mixture was stirred at room temperature for about 0.5 hr, and cooled to 0° C. again. Iodomethane (2.8 g, 0.02 mol) was added slowly. The resulting mixture was allowed to rise to room temperature and stirred for 1 hr. TLC (EtOAc: Petroleum ether=1:4) showed that the reaction was complete. Saturated aqueous NaCl (10 mL) and EtOAc (10 mL) were added. The organic layer was concentrated and the residue was purified via a silica gel column eluted with EtOAc/Petroleum ether (1:8) to give 5-bromo-N,3-dimethylpyridin-2-amine (B-4-2) (2.3 g, 57.8%) as a white solid.

reactant | 5-bromo-3-methylpyridin-2-amine | 0.02 mol, 3.7 g | BrC=1C=C(C(=NC1)N)C | C6H7BrN2
reactant | NaH | 0.02 mol, 0.8 g | [H-].[Na+]
reactant | Iodomethane | 0.02 mol, 2.8 g | IC | CH3I
reactant | NaCl | 10 mL | [Na+].[Cl-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 5-bromo-N,3-dimethylpyridin-2-amine | 2.3 g, 57.8% | BrC=1C=C(C(=NC1)NC)C | C7H9BrN2
